US09399646B2
Step 1: 1-(5-Iodo-1H-indol-1-yl)ethanone
A solution of 5-iodo-1H-indole (530 mg, 2.18 mmol), DMAP (53 mg, 0.43 mmol), triethylamine (0.46 mL, 3.30 mmol), acetic anhydride (0.81 mL, 8.57 mmol), and 1,2-dichloroethane (5.5 mL) was heated at 60° C. overnight. The reaction mixture was diluted with ethyl acetate (100 mL), washed (50 mL saturated NH4Cl then 50 mL brine), dried over Na2SO4, and concentrated under reduced pressure. The residue was purified by silica gel chromatography to yield the title compound as a white solid (600 mg, 96%). 1H NMR (300 MHz, DMSO-d6): δ 8.17 (d, 1H), 8.01 (d, 1H), 7.87 (d, 1H), 7.58 (dd, 1H), 6.70 (d, 1H), 2.64 (s, 3H).

reactant | 5-iodo-1H-indole | 2.18 mmol, 530 mg | IC=1C=C2C=CNC2=CC1 | C8H6IN
reactant | triethylamine | 3.30 mmol, 0.46 mL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 8.57 mmol, 0.81 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1,2-dichloroethane | 5.5 mL | ClCCCl | C2H4Cl2
catalyst | DMAP | 0.43 mmol, 53 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 1-(5-Iodo-1H-indol-1-yl)ethanone | 600 mg, 96% | IC=1C=C2C=CN(C2=CC1)C(C)=O | C10H8INO
